US07208613B2
The crude fluticasone obtained as above is dissolved in 68 ml 1-butanol at 117–120° C. to get a clear solution (which may be optionally charcoalized and filtered hot), and then gradually cooled to ambient temperature for crystallization. The crystallized product is filtered. washed with 1-butanol (4 ml). Dried at 55–60° C. to obtain pure fluticasone propionate (Yield 3.0 g, purity 99.24%).

reactant | fluticasone | C[C@@H]1C[C@H]2[C@@H]3C[C@@H](C4=CC(=O)C=C[C@@]4([C@]3([C@H](C[C@@]2([C@]1(C(=O)SCF)O)C)O)F)C)F | C22H27F3O4S
solvent | 1-butanol | 68 ml | C(CCC)O | C4H10O
product | fluticasone propionate | Yield 3.0 g | CCC(=O)O[C@@]1([C@@H](C[C@@H]2[C@@]1(C[C@@H]([C@]3([C@H]2C[C@@H](C4=CC(=O)C=C[C@@]43C)F)F)O)C)C)C(=O)SCF | C25H31F3O5S
